* diff_amp_inv (the ring's differential-to-single-ended converter) at 1.2 V.
*
* Why this deck exists.  Both instances of diff_amp_inv in the design have
* their tail-bias pin tied straight to VDD -- one inside ring_oscillator, one
* in CDR.  On 1.8 V that was crude but survivable.  On 1.2 V, working it out
* on paper:
*
*   stage 1 tail  W = 2 um / L = 1 um at Vgs = 1.2 V, Vth = 0.24 V
*                 -> roughly 280 uA, through 6.4 kohm / 2 per side
*                 -> about 0.9 V across the load, output common mode ~0.3 V
*   stage 2 input pair needs Vgs ~ 0.4 V to conduct, so its sources would sit
*                 below ground.  The stage is crushed.
*
*   stage 2 tail  W = 8 um / L = 0.13 um at Vgs = 1.2 V is larger still, and
*                 its outputs pin near zero.
*
* That would explain the end-to-end result exactly: the CTLE equalises, the
* control voltage settles, and the recovered clock never appears, because the
* stage that turns the ring's differential output into a clock is saturated
* into a static state and cannot pass an edge.
*
* This measures it rather than trusting the arithmetic, and sweeps the two
* tail sizes for a combination that leaves both stages in a usable operating
* point.  A .op sweep, so it costs seconds.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ

.global sub!
Vsub sub! 0 0

* Parameterised copy of diff_amp_inv, same topology as the schematic.
.param Wt1=2   Lt1=1.0
.param Wt2=8   Lt2=0.13  Nt2=4
.param Rl1=6396 Rl2=5596
.param Wres=1u
.param Ll1='(Rl1 - 1.6e-4/Wres) * (Wres - 0.04u) / 1360'
.param Ll2='(Rl2 - 1.6e-4/Wres) * (Wres - 0.04u) / 1360'

.subckt d2s_p VDD VSS vo- vo+ vin- vin+ vctrl
XM2 vom_t vin- s1 VSS sg13_lv_nmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XM6 vop_t vin+ s1 VSS sg13_lv_nmos w=3u l=0.13u ng=1 m=1 mm_ok=1
XM3 s1 vctrl VSS VSS sg13_lv_nmos w='Wt1*1u' l='Lt1*1u' ng=1 m=1 mm_ok=1
XR3 VDD vop_t sub! rhigh w='Wres' l='Ll1' m=1 b=0 mm_ok=1
XR4 VDD vom_t sub! rhigh w='Wres' l='Ll1' m=1 b=0 mm_ok=1
XM1 vo- vom_t s2 VSS sg13_lv_nmos w=6u l=0.5u ng=1 m=1 mm_ok=1
XM5 vo+ vop_t s2 VSS sg13_lv_nmos w=6u l=0.5u ng=1 m=1 mm_ok=1
XM4 s2 vctrl VSS VSS sg13_lv_nmos w='Wt2*1u' l='Lt2*1u' ng='Nt2' m=1 mm_ok=1
XR1 VDD vo+ sub! rhigh w='Wres' l='Ll2' m=1 b=0 mm_ok=1
XR2 VDD vo- sub! rhigh w='Wres' l='Ll2' m=1 b=0 mm_ok=1
.ends

VDD VDD 0 1.2
VSS VSS 0 0

* Driven the way the ring drives it: about 1 V differential around a common
* mode near the top of the rail, since the ring's outputs are resistor loads
* pulled up to VDD.
.param incm=0.85 indiff=0.5
Vip vinp 0 'incm + indiff/2'
Vim vinm 0 'incm - indiff/2'

x1 VDD VSS vom vop vinm vinp VDD d2s_p

.control
foreach wt1 0.3 0.5 1.0 2.0
 foreach wt2 0.5 1.0 2.0 8.0
  alterparam Wt1 = $wt1
  alterparam Wt2 = $wt2
  alterparam Lt2 = 1.0
  alterparam Nt2 = 1
  reset
  op
  let p_wt1 = $wt1
  let p_wt2 = $wt2
  let itot  = -i(vdd)
  let s1v   = v(x1.s1)
  let s2v   = v(x1.s2)
  let t1cm  = (v(x1.vop_t) + v(x1.vom_t))/2
  let outp  = v(vop)
  let outm  = v(vom)
  let outd  = v(vop) - v(vom)
  print p_wt1 p_wt2 itot s1v s2v t1cm outp outm outd
 end
end
quit
.endc
.end
